US04313949
2-Amino-3-benzoyl-α-(methylthio)-N-methylphenylacetamide
A solution of 29.6 g (0.15 mole) of 2-aminobenzophenone in 350 ml of methylene chloride was cooled to -70° C. and 17.9 g (0.15 mol) of 2-methylthio-N-methylacetamide in 20 ml of methylene chloride was added. To the (-70° C.) mixture was added dropwise a solution of 17.2 g (0.15 mole) of 95% t-butylhypochlorite in 30 ml of methylene chloride. The temperature was maintained at or below -65° C. for 1.5 hr, then 15.1 g (0.15 mole) of triethylamine was added rapidly. The solution was allowed to warm to room temperature and was washed with water. The organic solution was concentrated and the residue crystallized when mixed with isopropyl ether. The solid was recrystallized from isopropyl alcohol to give 31 g (65%) of yellow needles, m.p. 149.0°-150.0° C.

reactant | 2-aminobenzophenone | 0.15 mole, 29.6 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 2-methylthio-N-methylacetamide | 0.15 mol, 17.9 g | CSCC(=O)NC | C4H9NOS
reactant | t-butylhypochlorite | 0.15 mole, 17.2 g | C(C)(C)(C)OCl | C4H9ClO
reactant | triethylamine | 0.15 mole, 15.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-benzoyl-α-(methylthio)-N-methylphenylacetamide | 31 g, 65% | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C(=O)NC)SC | C17H18N2O2S
